US20010046994A1
Synthesis of 1-(2-chloro-5-pyridylmethyl)-5-ethyl-2-nitroiminohexahydro-1,3,5-triazine
To a stirring mixture of 1 g of 1-(2-chloro-5-pyridylmethyl)-3-nitroguanidine, 0.28 g of 70% ethylamine in water and 20 ml of ethanol, 0.71 g of 37% formalin solution was added dropwise with heating. The reaction mixture was heated under reflux for two hours. After being allowed to cool to room temperature, the crystals formed, which were filtrated off and recrystallized from methanol to obtain 1.15 g of the title compound. This compound is No. 2 in Table 1. m.p.: 124-125° C.

reactant | 1-(2-chloro-5-pyridylmethyl)-3-nitroguanidine | 1 g | ClC1=NC=C(C=C1)CNC(=N)N[N+](=O)[O-] | C7H8ClN5O2
reactant | ethylamine | 0.28 g | C(C)N | C2H7N
reactant | formalin | 0.71 g | C=O | CH2O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2-chloro-5-pyridylmethyl)-5-ethyl-2-nitroiminohexahydro-1,3,5-triazine | 1.15 g | ClC1=NC=C(C=C1)CN1C(NCN(C1)CC)=N[N+](=O)[O-] | C11H15ClN6O2
